US07981903B2
A thick white slurry of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (400 mg, 0.835 mmol) and 5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-amine (197 mg, 0.835 mmol) in THF (15 mL) was heated at 80° C. for 17 h, cooled, then diluted with THF (20 mL) and a 30% aqueous NH4OH solution (50 mL). The reaction mixture was maintained for 17 h, then diluted with EtOAc (50 mL) and a saturated NaCl solution (25 mL). The organic layer was washed with a saturated NaCl solution (3×50 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2. The crude product was triturated using Et2O, dissolved in dioxane (15 mL) and a 1N KOH solution (3.64 mL, 3.64 mmol) and then heated at 80° C. for 3 h. The resulting mixture was allowed to cool somewhat, diluted with EtOAc (100 mL) and a 2N NaOH solution (50 mL). The organic layer was washed with a 2N NaOH solution (2×50 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-fluoro-6-{[2-({5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-yl}amino)-1 H-pyrrolo[2,3-d]pyrimidin-4-yl]amino}benzamide as a yellow solid (63 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.11 (t, J=8.15 Hz, 2H), 3.76 (s, 3H), 4.01 (t, J=8.33 Hz, 2H), 4.14 (s, 2H), 6.16-6.27 (m, 1H), 6.76-6.89 (m, 1H), 6.90-6.99 (m, 2H), 7.22-7.38 (m, 1H), 7.58 (s, 1H), 8.00 (s, 1H), 8.08 (s, 1H), 8.49 (d, J=8.42 Hz, 1H), 8.63 (s, 1H), 10.52 (s, 1H), 11.29 (s, 1H) a Me-O signal with 3 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=506.16.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.835 mmol, 400 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-amine | 0.835 mmol, 197 mg | COC=1C=C2CCN(C2=CC1N)C(COC)=O | C12H16N2O3
reactant | NH4OH | 50 mL | [NH4+].[OH-]
reactant | NaCl | 25 mL | [Na+].[Cl-]
reactant | KOH | 3.64 mmol, 1N, 3.64 mL | [OH-].[K+]
reactant | NaOH | 2N, 50 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-fluoro-6-{[2-({5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-yl}amino)-1 H-pyrrolo[2,3-d]pyrimidin-4-yl]amino}benzamide | 63 mg | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(COC)=O)OC)=NC=C2 | C25H24FN7O4
